US08022222B2
Following procedure of Example 83, 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid hydrochloride (0.1 g, 0.2511 mmol), triethylamine (0.1016 g, 1.004 mmol), DMF (3 mL), added ethyl carbonochloridate (0.02641 mL, 0.2762 mmol), N-(2-aminoethyl)pyrrolidine (0.05734 g, 0.5022 mmol) were reacted to afford 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-N-(2-(pyrrolidin-1-yl)ethyl)benzamide hydrochloride (0.021 g, 15.22% yield) as off white solid. 1H NMR (DMSO) δ 11.26 (bs, 1H), 10.18 (bs, 1H), 8.98 (t, 1H), 8.23 (d, 1H), 7.92 (dd, 1H), 7.89 (d, 1H), 7.83 (d, 1H), 6.58 (m, 3H), 3.61 (m, 4H), 3.31 (q, 2H), 3.02 (m, 2H), 2.21 (d, 3H), 2.00 (m, 2H), 1.86 (m, 2H); Mass spectrum (esi) m/z 458 (100) (M+H—HCl).

reactant | 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid hydrochloride | 0.2511 mmol, 0.1 g | Cl.ClC1=C(C=C(C(=O)O)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C
reactant | triethylamine | 1.004 mmol, 0.1016 g | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.2762 mmol, 0.02641 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | N-(2-aminoethyl)pyrrolidine | 0.5022 mmol, 0.05734 g | NCCN1CCCC1 | C6H14N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-N-(2-(pyrrolidin-1-yl)ethyl)benzamide hydrochloride | 0.021 g, 15.22% yield | Cl.ClC1=C(C=C(C(=O)NCCN2CCCC2)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | InChI=1S/C22H24ClN5O2S.ClH/c1-15-14-31-22(26-15)27-20-13-17(6-7-24-20)30-19-12-16(4-5-18(19)23)21(29)25-8-11-28-9-2-3-10-28;/h4-7,12-14H,2-3,8-11H2,1H3,(H,25,29)(H,24,26,27);1H
